US05153203
7-[(1-Methyl-3-pyrrolidinylmethyl)oxy]-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 24)
To a mixture of 596 mg of 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 460 mg of 1-methyl-3-hydroxymethylpyrrolidine and 5 ml of DMF was added 262 mg of 55% sodium hydride while the former was stirred at room temperature. After the resultant mixture was stirred for 1 hour at room temperature, 360 mg of acetic acid was added and DMF was distilled off under reduced pressure. The residue was purified by chromatography on silica gel (chloroform/methanol: 3/1), followed by recrystallization from ethanol. The title compound was obtained as pale green powder (yield: 240 mg).

reactant | 1-cyclopropyl-5-amino-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 596 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)N)=O)C(=O)O | C13H9F3N2O3
reactant | 1-methyl-3-hydroxymethylpyrrolidine | 460 mg | CN1CC(CC1)CO | C6H13NO
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 262 mg | [H-].[Na+]
solvent | acetic acid | 360 mg | C(C)(=O)O | C2H4O2
product | 7-[(1-Methyl-3-pyrrolidinylmethyl)oxy]-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | CN1CC(CC1)COC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | C19H21F2N3O4
